US07153855B2
To a cold (−78° C.) solution of 9-methoxy-9-borabicyclo[3.3.1]nonane (1 mL, 1.0 M in hexane, 1.0 mmol) in tetrahydrofuran (5 mL) was added isopropenylmagnesium bromide (2.0 mL, 0.5 M in tetrahydrofuran, 1.0 mmol) dropwise. The resultant solution was stirred at −78° C. for 5 minutes, then allowed to warm to room temperature. After 1 hour, potassium phosphate (0.33 mL, 3 M aqueous, 1.0 mmol) was added followed by N,N-dimethylformamide (5 mL), 2-(4-Bromophenyl)-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (100 mg, 0.20 mmol), and bis(diphenylphosphinoferrocene)palladium(II) chloride dichloromethane complex (17 mg, 0.02 mmol). The resultant solution was stirred for 72 hours at room temperature. Ether was added followed by water. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (6:1 to 4:1 to 2:1 hexanes:ethyl acetate) provided impure product. This material was taken up in tetrahydrofuran, cooled to 0° C. and 1 mL each of 10% aqueous sodium hydroxide and 30% hydrogen peroxide were added. After 30 minutes, the mixture was quenched with saturated aqueous sodium thiosulfate. Aqueous workup as reported above followed by similar chromatography provided N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-isopropenylphenyl)pyrazolo[1,5-a]pyridin-7-amine (25 mg, 27%) as an oil. 1H NMR (CDCl3): δ 8.00 (d, 1 H), 7.76 (d, 1 H), 7.62 (d, 2 H), 7.54 (d, 2 H), 7.30 (m, 1 H), 6.35 (d, 1 H), 6.07 (m, 1 H), 5.99 (d, 1 H), 5.46 (s, 2 H), 5.22 (broad, 1 H), 5.14 (s,1 H), 3.47 (m, 2 H), 3.36 (m, 2 H), 2.20 (s, 3 H), 1.77–1.42 (m, 8 H), 1.00–0.95 (m 6 H); MS m/z 455 (M+1). This material was treated with anhydrous hydrochloric acid in ether to provide the corresponding hydrochloride salt.

reactant | 9-methoxy-9-borabicyclo[3.3.1]nonane | 1.0 mmol, 1.0 M, 1 mL | COB1C2CCCC1CCC2 | C9H17BO
reactant | isopropenylmagnesium bromide | 1.0 mmol, 0.5 M, 2.0 mL | C(=C)(C)[Mg]Br
reactant | potassium phosphate | 1.0 mmol, 3 M, 0.33 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(4-Bromophenyl)-N-butyl-3-[2-(butylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 0.20 mmol, 100 mg | BrC1=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC | C25H29BrN6
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-isopropenylphenyl)pyrazolo[1,5-a]pyridin-7-amine | 25 mg, 27% | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=CC=C(C=C2)C(=C)C | C28H34N6
